US07622469B2
3,6-Dihydro-6,6-dimethyl-4-dodecylamino-2-furfurylamino-1,3,5-triazine acetate
150 ml of methanol, 120 ml of acetone and 0.6 ml of concentrated hydrochloric acid were added to 10.0 g (23.7 mmol) of N1-furfuryl-N5-dodecyl-biguanide dihydrochloride. The mixture was refluxed for 22 hours, and the solvent was distilled off under reduced pressure. The residue was dissolved in ethyl acetate, and to the solution was added 11 ml of 5N sodium hydroxide. The mixture was stirred, washed with 10% aqueous sodium acetate, and concentrated under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (elution with a mixture of chloroform/methanol/acetic acid (9:1:1)) to obtain 8.4 g of a pale yellow resinous solid.

reactant | methanol | 150 ml | CO | CH4O
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
reactant | N1-furfuryl-N5-dodecyl-biguanide dihydrochloride | 23.7 mmol, 10.0 g | Cl.Cl.C(C1=CC=CO1)NC(=N)NC(=N)NCCCCCCCCCCCC
reactant | acetone | 120 ml | CC(=O)C | C3H6O
product | 3,6-Dihydro-6,6-dimethyl-4-dodecylamino-2-furfurylamino-1,3,5-triazine acetate | 8.4 g | C(C)(=O)O.CC1(N=C(NC(=N1)NCC1=CC=CO1)NCCCCCCCCCCCC)C | InChI=1S/C22H39N5O.C2H4O2/c1-4-5-6-7-8-9-10-11-12-13-16-23-20-25-21(27-22(2,3)26-20)24-18-19-15-14-17-28-19;1-2(3)4/h14-15,17H,4-13,16,18H2,1-3H3,(H3,23,24,25,26,27);1H3,(H,3,4)
